US07141561B2
N-(2-Dimethylaminoethyl)-N-methylbenzene-1,4-diamine
The compound was prepared by zinc dust reduction of N,N,N′-trimethyl-N′-(4-nitrophenyl)ethane-1,2-diamine in analogy to the method in example 3. The product with the molecular weight of 193.29 (C11H19N3); MS (ESI): 194 ([M+H]+), was obtained in this way.

reactant | N,N,N′-trimethyl-N′-(4-nitrophenyl)ethane-1,2-diamine | CN(CCN(C1=CC=C(C=C1)[N+](=O)[O-])C)C | C11H17N3O2
catalyst | zinc | [Zn] | Zn
product | N-(2-Dimethylaminoethyl)-N-methylbenzene-1,4-diamine | CN(CCN(C1=CC=C(C=C1)N)C)C | C11H19N3
